US03954754
EXAMPLE 28: 3-Hydrazino-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine
11.4 g of 3-chloro-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine and 100 cc of hydrazine hydrate are boiled at reflux at a bath temperature of 110° for 11/2 hours while stirring. The crude title compound is taken up in 100 cc of chloroform, is dried with sodium sulphate, the chloroform solution is again concentrated, and recrystallized from 20 cc of absolute ethanol. The title compound has a M.P. of 158°-160° (decomp.).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine | 11.4 g | ClC1=CC2=C(N=N1)CCN(C2)C(C(C)(C)C)=O | C12H16ClN3O
reactant | hydrazine hydrate | 100 cc | O.NN
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-pivaloylpyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(C(C)(C)C)=O | C12H19N5O
